US06686381B2
[2-(3-Dimethylaminomethylene-thioureido)-ethyl]-carbamic Acid tert-Butyl Ester
The title compound was synthesised from (2-Thioureido-ethyl)-carbamic acid tert-butyl ester and Dimethylformamide dimethyl acetal according to the procedure described for Example C in 51% yield. MS (m/e): 275.4 (MH+, 100%).

reactant | (2-Thioureido-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC(=S)N)=O | C8H17N3O2S
reactant | Dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | [2-(3-Dimethylaminomethylene-thioureido)-ethyl]-carbamic Acid tert-Butyl Ester | 51% yield | C(C)(C)(C)OC(NCCNC(=S)N=CN(C)C)=O | C11H22N4O2S
